US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-crotonoyl-5-benzhydrylaminovaleric acid and ethyl 3-aminopropionate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-(N-crotonoyl-5-benzhydrylaminopentanoyl)-3-aminopropionic acid.

reactant | N-crotonoyl-5-benzhydrylaminovaleric acid | C(\C=C\C)(=O)N(CCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25NO3
reactant | ethyl 3-aminopropionate | NCCC(=O)OCC | C5H11NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-(N-crotonoyl-5-benzhydrylaminopentanoyl)-3-aminopropionic acid | C(\C=C\C)(=O)N(CCCCC(=O)NCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H30N2O4
